US04241052
3.6 g of D-galactose, 2.2 g of cyclopropylmethylamine and 2.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 23-(1). 4.5 g of 1-(2-chloroethyl)-3-cyclopropylmethyl-3-(D-galactopyranosyl)urea are thereby obtained as colorless caramel.

reactant | D-galactose | 3.6 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | cyclopropylmethylamine | 2.2 g | C1(CC1)CN | C4H9N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-cyclopropylmethyl-3-(D-galactopyranosyl)urea | 4.5 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CC1CC1 | C13H23ClN2O6
